US04568685
3,4-Dichloro-N-[4-(1H-1,2,4-triazol-1-yl)butyl]benzamide
A mixture of about 2.13 g of 1H-1,2,4-triazole-1-butanamine, dihydrochloride, about 75 ml of methylene chloride, about 30 ml of approximately 1N sodium hydroxide and about 1.41 ml of 3,4-dichlorobenzoyl chloride was stirred at room temperature overnight. An additional, about 5 ml of approximately 1N sodium hydroxide and about 50 ml of methylene chloride were added and the layers were separated. The organic layer was washed with water, dried and concentrated. The oil was collected and crystallized from ether, giving about 2.3 g of the desired product as white crystals, mp 97°-99° C.

reactant | 1H-1,2,4-triazole-1-butanamine, dihydrochloride | about 2.13 g | Cl.Cl.N1(N=CN=C1)CCCCN
reactant | sodium hydroxide | approximately 1N, about 30 ml | [OH-].[Na+]
reactant | 3,4-dichlorobenzoyl chloride | about 1.41 ml | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
reactant | sodium hydroxide | approximately 1N, about 5 ml | [OH-].[Na+]
solvent | methylene chloride | about 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | about 75 ml | C(Cl)Cl | CH2Cl2
product | 3,4-Dichloro-N-[4-(1H-1,2,4-triazol-1-yl)butyl]benzamide | about 2.3 g | ClC=1C=C(C(=O)NCCCCN2N=CN=C2)C=CC1Cl | C13H14Cl2N4O
